US08981104B2
rac-Ethyl 5-[(2-{2-[(4-tert-butylbenzyl)oxy]phenyl}ethyl){2-[4-(methoxycarbonyl)phenyl]ethyl}-amino]-5,6,7,8-tetrahydroquinoline-2-carboxylate
129 mg (0.65 mmol) of methyl 4-(2-chloroethyl)benzoate and 91 mg (0.86 mmol) of anhydrous sodium carbonate were added to a solution of 210 mg (0.43 mmol) of ethyl 5-[(2-{2-[(4-tert-butylbenzyl)oxy]phenyl}ethyl)amino]-5,6,7,8-tetrahydroquinoline-2-carboxylate dihydrochloride in 4 ml of dry acetonitrile, and the mixture was initially heated under reflux for 4 hours. A further 0.1 ml of methyl 4-(2-chloroethyl)benzoate was then added, and the mixture was stirred under reflux for 4 hours. Another 0.1 ml of methyl 4-(2-chloroethyl)benzoate was metered in, and the mixture was then heated under reflux overnight. Subsequently, another 0.1 ml of methyl 4-(2-chlor-oethyl)benzoate and 100 mg of anhydrous sodium carbonate were added, and the mixture was stirred under reflux for a further 5 hours. Finally, another 0.1 ml of methyl 4-(2-chloroethyl)-benzoate and 0.2 ml of methyl 4-(2-iodoethyl)benzoate were added, and the reaction mixture was stirred under reflux for 2 days. The reaction was then concentrated to dryness. The residue obtained was purified by preparative HPLC. This gave 38 mg (0.06 mmol, content 92%, 14% of theory) of the title compound as a colourless oil.

reactant | methyl 4-(2-chloroethyl)benzoate | 0.65 mmol, 129 mg | ClCCC1=CC=C(C(=O)OC)C=C1 | C10H11ClO2
reactant | sodium carbonate | 0.86 mmol, 91 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl 5-[(2-{2-[(4-tert-butylbenzyl)oxy]phenyl}ethyl)amino]-5,6,7,8-tetrahydroquinoline-2-carboxylate dihydrochloride | 0.43 mmol, 210 mg | Cl.Cl.C(C)(C)(C)C1=CC=C(COC2=C(C=CC=C2)CCNC2C=3C=CC(=NC3CCC2)C(=O)OCC)C=C1
reactant | methyl 4-(2-chloroethyl)benzoate | 0.1 ml | ClCCC1=CC=C(C(=O)OC)C=C1 | C10H11ClO2
reactant | methyl 4-(2-chloroethyl)benzoate | 0.1 ml | ClCCC1=CC=C(C(=O)OC)C=C1 | C10H11ClO2
reactant | methyl 4-(2-chlor-oethyl)benzoate | 0.1 ml | ClCCC1=CC=C(C(=O)OC)C=C1 | C10H11ClO2
reactant | sodium carbonate | 100 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl 4-(2-chloroethyl)-benzoate | 0.1 ml | ClCCC1=CC=C(C(=O)OC)C=C1 | C10H11ClO2
reactant | methyl 4-(2-iodoethyl)benzoate | 0.2 ml | ICCC1=CC=C(C(=O)OC)C=C1 | C10H11IO2
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
product | rac-Ethyl 5-[(2-{2-[(4-tert-butylbenzyl)oxy]phenyl}ethyl){2-[4-(methoxycarbonyl)phenyl]ethyl}-amino]-5,6,7,8-tetrahydroquinoline-2-carboxylate | C(C)(C)(C)C1=CC=C(COC2=C(C=CC=C2)CCN(C2C=3C=CC(=NC3CCC2)C(=O)OCC)CCC2=CC=C(C=C2)C(=O)OC)C=C1 | C41H48N2O5
